US07259177B2
120 mg of isopropyl 2-{[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)-cyclohexylmethyl]amino}acetate are dissolved in 1.5 ml of dichloromethane, and 62 mg of benzaldehyde, a spatula tip of MgSO4 and 68 mg of sodium triacetoxyborohyride are added successively. The suspension is stirred at RT overnight, and water is then added. The oraganic phase is separated off, washed with Na2CO3 solution, dried over MgSO4 and concentrated. The residue is dissolved in 0.7 ml of methanol and 0.23 ml of water, 20 mg of LiOH are added and the mixture is stirred at RT overnight. The solution is concentrated and the residue is purified by preparative HPLC, yielding 15 mg of 2-{benzyl-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexylmethyl]amino}acetic acid. C28H34N2O4 (462.59); MS (ESI): 463 (MH+).

reactant | isopropyl 2-{[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)-cyclohexylmethyl]amino}acetate | 120 mg | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CO[C@H]1C[C@H](CCC1)CNCC(=O)OC(C)C | C24H34N2O4
reactant | benzaldehyde | 62 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | sodium triacetoxyborohyride | 68 mg | [B-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-{benzyl-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexylmethyl]amino}acetic acid | 15 mg | C(C1=CC=CC=C1)N(CC(=O)O)C[C@@H]1C[C@@H](CCC1)OCC=1N=C(OC1C)C1=CC=C(C=C1)C | C28H34N2O4
